US05061717
(E)-5-[4-(3-(4-Methoxyphenyl)-2-propenoyl)benzyl]thiazolidine-2,4-dione
Hydrogen chloride was bubbled into an ice-cooled solution of 5-(4-acetylbenzyl)thiazolidine-2,4-dione (1.0 g, 4.0 mmol) and p-anisaldehyde (0.55 g, 4.0 mol) in ethanol (15 ml) for 1 hour. The solution was stirred overnight at room temperature, then diluted with water and the yellow precipitate of present title product collected and dried (1.37 g, 93%); m.p. 177°-180° C.

reactant | 5-(4-acetylbenzyl)thiazolidine-2,4-dione | 4.0 mmol, 1.0 g | C(C)(=O)C1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H11NO3S
reactant | p-anisaldehyde | 4.0 mol, 0.55 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (E)-5-[4-(3-(4-Methoxyphenyl)-2-propenoyl)benzyl]thiazolidine-2,4-dione | COC1=CC=C(C=C1)/C=C/C(=O)C1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C20H17NO4S
